* BSM180D12P3C007
* SiC Power Module model
* 1200V 180A Half-Bridge of SiC NMOSFET and SiC SBD
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2016/07/20
*                       D1
*                       | S2
*                       | | D2
*                       | | | S1
*                       | | | | G2
*                       | | | | | SS2(signal)
*                       | | | | | | SS1(signal)
*                       | | | | | | | G1
*                       | | | | | | | |
.SUBCKT rohm_model 1 2 3 4 5 6 9 10
.PARAM T0=25
.FUNC R1(I)     {6.425m*I*EXP((TEMP-T0)/150.6)+68.58p*I*ABS(I)**2.628*EXP((TEMP-T0)/64.02)}
.FUNC V1(V,W)   {V-5.329m*W*EXP((TEMP-T0)/1413)-353.9m*ASINH(W/1.426)}
.FUNC V2(V)     {190.0p*V**13.91*EXP((TEMP-T0)/32.08*EXP((TEMP-T0)/-1097))}
.FUNC I1(V,W)   {V*(1+2.693*(TANH((V+56.11)/23.88)+1)*EXP((TEMP-T0)/-258.7)/20)*
+                W/(ABS(W)+2.693*(TANH((V+56.11)/23.88)+1)*EXP((TEMP-T0)/-258.7))}
.FUNC C1(U,V,W) {(5931*(V-0.2230)+9657*(1-419.2*TANH(W/419.2)/1.115)**-0.4910)*
+               (0.3243*TANH((U+4.679)/9.038)+0.6757)}
.FUNC R2(I)     {59.0m*I/10*EXP((TEMP-T0)/230)}
.FUNC R3(I)     {2.0m*I*EXP((TEMP-T0)/140)}
.FUNC I2(V)     {10*2.102f*(EXP(V/0.02760/EXP((TEMP-T0)/405.3))-1)*
+                EXP((TEMP-T0)/7.850*EXP((TEMP-T0)/-601.3))}
.FUNC I3(V)     {10*TANH(V/0.1)*(710.4p*EXP(-V/198.3)*EXP((TEMP-T0)/54.40)+
+                26.02f*EXP(-V/63.22/EXP((TEMP-T0)/178.9))*EXP((TEMP-T0)/8.493*EXP((TEMP-T0)/-600)))}
.FUNC C2(V,W)   {21190*(V-0.6353)+16490*(1-394.6*TANH(W/394.6)/1.271)**-0.5554}
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
L11   1 110 3.0n
R11   1 110 10
V11 110 111 0
E11 111 112 VALUE={R1(MIN(MAX(I(V11),-5k),5k))}
R12  10 122 0.5
L12 210   9 6.5n
R13 210   9 10
L13   4 101 3.0n
R14   4 101 10
R10 101 210 10u
E12 141   0 VALUE={V1(MIN(MAX(V(122,9),0),22),MIN(MAX(V(142),0),5k))}
E13 142   0 VALUE={V2(MIN(MAX(V(141),0),25))}
G11 112   9 VALUE={I1(V(142),V(112,9))}
R15 112   9 1T
V15 122 123 0
C11 123 112 1p
G12 122 112 VALUE={I(V15)*C1(V(122,112),MIN(MAX(V(122,112),0.2230),0.535),MIN(V(122,112),0.2230))}
C12 122   9 8.624n
R16 122   9 1G
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
V16   9 151 0
E14 151 152 VALUE={R2(MIN(MAX(I(V16),-2MEG),3MEG))-R3(MIN(MAX(I(V11),-5k),5k))}
V17 152 153 0
C13 153 110 1p
G13 152 110 VALUE={I2(MIN(MAX(V(152,110),-5k),2))+I3(MIN(MAX(V(152,110),-5k),2))+
+                  I(V17)*C2(MAX(V(152,110),0.6353),MIN(V(152,110),0.6353))}
R17 152 110 1T
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
L21   3 201 3.0n
R21   3 201 10
R20 201 210 10u
V21 210 211 0
E21 211 212 VALUE={R1(MIN(MAX(I(V21),-5k),5k))}
R22   5 222 0.5
L22   2   6 9.5n
R23   2   6 10
E22 241   0 VALUE={V1(MIN(MAX(V(222,6),0),22),MIN(MAX(V(242),0),5k))}
E23 242   0 VALUE={V2(MIN(MAX(V(241),0),25))}
G21 212   6 VALUE={I1(V(242),V(212,6))}
R24 212   6 1T
V25 222 223 0
C21 223 212 1p
G22 222 212 VALUE={I(V25)*C1(V(222,212),MIN(MAX(V(222,212),0.2230),0.535),MIN(V(222,212),0.2230))}
C22 222   6 8.624n
R25 222   6 1G
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
V26   6 251 0
E24 251 252 VALUE={R2(MIN(MAX(I(V26),-2MEG),3MEG))-R3(MIN(MAX(I(V21),-5k),5k))}
V27 252 253 0
C23 253 210 1p
G23 252 210 VALUE={I2(MIN(MAX(V(252,210),-5k),2))+I3(MIN(MAX(V(252,210),-5k),2))+
+                  I(V27)*C2(MAX(V(252,210),0.6353),MIN(V(252,210),0.6353))}
R27 252 210 1T
.ENDS rohm_model
